US08937071B2
To a solution of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (3.52 g, 9.14 mmol), 2-(4-bromo-2-fluorophenyl)-N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)acetamide (5.5 g, 9.14 mmol) and Cs2CO3 (7.45 g, 22.85 mmol) in 1,4-dioxane (30 mL) and H2O (10.00 mL) stirred under a N2 atmosphere at 20° C. was added PdCl2(dppf) (0.334 g, 0.457 mmol) in one charge. The reaction vessel was heated in 110° C. for 3 h. Then the solution was concentrated and distributed between EA and H2O. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by silica column chromatography (PE/EA=1:1). All fractions found to contain product by TLC (PE/EA=1:1, Rf 0.3) were combined and concentrated to yield a white solid of N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (5.8 g, 7.30 mmol, 80.0% yield): 1H NMR (400 MHz, CDCl3) δ 7.80-7.98 (m, 3H), 7.67 (d, J=8.6 Hz, 1H), 7.37-7.47 (m, 3H), 7.26-7.35 (m, 2H), 7.20 (d, J=2.0 Hz, 1H), 6.89 (d, J=8.6 Hz, 2H), 5.44 (s, 2H), 4.13 (q, J=7.0 Hz, 2H), 3.75-3.86 (m, 5H), 3.70 (br. s., 2H), 2.35 (br. s., 6H), 1.46 (t, J=7.0 Hz, 3H) ES-LCMS m/z 612.2 (M+H).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 9.14 mmol, 3.52 g | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | 2-(4-bromo-2-fluorophenyl)-N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)acetamide | 9.14 mmol, 5.5 g | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CN(C)C)C(F)(F)F)F | C18H17BrF4N2O
reactant | Cs2CO3 | 22.85 mmol, 7.45 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 10.00 mL | O | H2O
catalyst | PdCl2(dppf) | 0.457 mmol, 0.334 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 7.30 mmol, 5.8 g, 80.0% yield | CN(C)CC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C33H33F4N3O4
